US07807672B2
Preparation of 4-(4-Pyrimidin-2-yl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture containing 4-(4-bromo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (100 mg, 0.29 mmol), 2-tributylstannanyl-pyrimidine (130 mg, 0.36 mmol), cesium fluoride (85 mg, 0.56 mmol) and palladium di-tert-butylphosphine was degassed three times with Ar. Dioxane was added and the formed reaction mixture was stirred at 90° C. overnight under Ar. Then the reaction mixture was filter through celite and the solvent was removed under vacuum and crude product was used directly in the next step.

reactant | 4-(4-bromo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.29 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)Br | C16H22BrNO2
reactant | 2-tributylstannanyl-pyrimidine | 0.36 mmol, 130 mg | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | cesium fluoride | 0.56 mmol, 85 mg | [F-].[Cs+]
catalyst | palladium di-tert-butylphosphine | C(C)(C)(C)PC(C)(C)C.[Pd]
product | 4-(4-Pyrimidin-2-yl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C1=NC=CC=N1 | C20H25N3O2
